US08937150B2
1-(2,6-difluoro-4-nitrophenyl)-1,2,3,6-tetrahydropyridin-4-yl trifluoromethanesulfonate
To a solution of 1-(2,6-difluoro-4-nitrophenyl)piperidin-4-one (5.0 g, 19.52 mmol) in anhydrous THF (50 mL) at −78° C. under a dry N2 atmosphere was added a 1 M THF solution of lithium bis(triethylsilyl)amide (29.3 ml, 29.3 mmol) in THF dropwise over 10 minutes. The resulting deep red solution was stirred at −78° C. for 5 minutes and 1,1,1-trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide (7.67 g, 21.47 mmol) was added. The resulting mixture was stirred at −78° C. for 1 hour, and then the mixture was allowed to warm to room temperature. The mixture was diluted with EtOAc (100 mL) and washed with 1 N aq. NaOH (50 mL) and water (50 mL), and dried over Na2SO4. The drying agent was filtered off, and the solvent was removed in vacuo to give a crude product that was purified by column chromatography on silica gel using a solvent gradient of 0-40% EtOAc in hexanes. The title compound was obtained as a yellow oil that crystallized in vacuo (6.12 g, 81%).

reactant | 1-(2,6-difluoro-4-nitrophenyl)piperidin-4-one | 19.52 mmol, 5.0 g | FC1=C(C(=CC(=C1)[N+](=O)[O-])F)N1CCC(CC1)=O | C11H10F2N2O3
reactant | lithium bis(triethylsilyl)amide | 29.3 mmol, 29.3 ml | C(C)[Si](CC)(CC)[N-][Si](CC)(CC)CC.[Li+]
reactant | 1,1,1-trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide | 21.47 mmol, 7.67 g | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=CC=CC=C1)(F)F | C8H5F6NO4S2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | THF | 1 M | C1CCOC1 | C4H8O
product | 1-(2,6-difluoro-4-nitrophenyl)-1,2,3,6-tetrahydropyridin-4-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC=1CCN(CC1)C1=C(C=C(C=C1F)[N+](=O)[O-])F)(F)F | C12H9F5N2O5S
